US05075316
Preparation of 2-phenylamino-4-chloro-6-cyclopropylpyrimidine of the formula
19.6 g (86.3 mmol) of 2-phenylamino-4-hydroxy-6-cyclopropyl-pyrimidine are added to 50 ml (0.55 mol) of phosphorus oxychloride at 75° C. in the course of one hour, while stirring, and the mixture is then refluxed for one hour. When the evolution of hydrogen chloride has ended, the reaction mixture is cooled to room temperature and poured into 200 ml of water, while stirring vigorously, the temperature being kept at about 50° C. by addition of ice. The approximately 400 ml of the pale brown suspension is brought to pH 7 by slow dropwise addition of 220 ml of 30% aqueous sodium hydroxide solution and is extracted three times with 150 ml of ethyl acetate each time. The combined extracts are washed twice with 100 ml of water each time, dried over sodium sulfate and filtered and the solvent is evaporated. The 20.7 of pale brown powder are treated with 400 ml of diethyl ether and the undissolved material is filtered off. After evaporation of the diethyl ether, the residue is recrystallized from diisopropyl ether. The yellowish crystals melt at 127°-128° C. Yield 17.7 g (72.1 mmol; 83.5% of theory).

reactant | 2-phenylamino-4-hydroxy-6-cyclopropyl-pyrimidine | 86.3 mmol, 19.6 g | C1(=CC=CC=C1)NC1=NC(=CC(=N1)O)C1CC1 | C13H13N3O
reactant | phosphorus oxychloride | 0.55 mol, 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | 220 ml | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-phenylamino-4-chloro-6-cyclopropylpyrimidine | C1(=CC=CC=C1)NC1=NC(=CC(=N1)Cl)C1CC1 | C13H12ClN3
